US04234594
1-Acetyl-2[1(4-chloro-2-methylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline
5-Amino-3-methyl-1-(4-chloro-2-methylphenyl) pyrazole (22.16 g.) and 1-acetyl-2-imidazolinone (15.4 g.) were reacted as described in Example I to give 13.1 g. of product, mp 195°-195°.

reactant | 5-Amino-3-methyl-1-(4-chloro-2-methylphenyl) pyrazole | 22.16 g | NC1=CC(=NN1C1=C(C=C(C=C1)Cl)C)C | C11H12ClN3
reactant | 1-acetyl-2-imidazolinone | 15.4 g | C(C)(=O)N1C=NC(C1)=O | C5H6N2O2
product | 1-Acetyl-2[1(4-chloro-2-methylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=C(C=C(C=C1)Cl)C)C | C16H18ClN5O
